US07732435B2
7-(4-Chlorophenyl)-2-(1,1-difluoroethyl)-8-isopropyl-3H-chromeno[7,8-d]imidazol-6-one (and tautomer)
7,8-Diamino-3-(4-chlorophenyl)-2-isopropyl-chromen-4-one (168 mg, 0.511 mmol) is dissolved in 2,2-difluoropropionic acid (562 mg), dilute hydrochloric acid (2M, 0.1 ml) is added, and the mixture is heated at 110° C. for 4 h. The reaction mixture is cooled to room temperature, diluted with water (10 ml) and extracted with ethyl acetate (3×30 ml). The ethyl acetate extracts are combined and washed with saturated sodium bicarbonate solution (2×40 ml) and saturated brine (40 ml). The organic layer is dried (MgSO4), treated with decolourising charcoal (50 mg), filtered and evaporated to give a colourless solid. This is sonicated with n-hexane/diethyl ether and filtered to give a cream-coloured powder.

reactant | 7,8-Diamino-3-(4-chlorophenyl)-2-isopropyl-chromen-4-one | 0.511 mmol, 168 mg | NC1=CC=C2C(C(=C(OC2=C1N)C(C)C)C1=CC=C(C=C1)Cl)=O | C18H17ClN2O2
reactant | hydrochloric acid | 2M, 0.1 ml | Cl | ClH
reactant | n-hexane diethyl ether | CCCCCC.C(C)OCC
reactant | 2,2-difluoropropionic acid | 562 mg | FC(C(=O)O)(C)F | C3H4F2O2
solvent | water | 10 ml | O | H2O
product | 7-(4-Chlorophenyl)-2-(1,1-difluoroethyl)-8-isopropyl-3H-chromeno[7,8-d]imidazol-6-one | ClC1=CC=C(C=C1)C1=C(OC2=C(C1=O)C=CC=1NC(=NC12)C(C)(F)F)C(C)C | C21H17ClF2N2O2
